US07750154B2
A solution of 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(2-methylprop-2-en-1-yl)oxy]benzamide (3.6 g), triethylorthoformate (4.6 ml) and acetic acid (0.6 ml) in ethanol (50 ml) was heated at reflux for 18 hours. The reaction was cooled to room temperature and concentrated. The residue was partitioned between aqueous potassium carbonate solution (50 ml) and ethyl acetate (200 ml). The organic extracts were washed with brine (100 ml), dried (magnesium sulfate) and concentrated to give the crude N-cyclopropyl-4-methyl-3-[6-[(2-methylprop-2-en-1-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide as an oil (2.5 g) which was used directly in the next step.

reactant | 2-amino-N-{5-[(cyclopropylamino)carbonyl]-2-methylphenyl}-5-[(2-methylprop-2-en-1-yl)oxy]benzamide | 3.6 g | NC1=C(C(=O)NC2=C(C=CC(=C2)C(=O)NC2CC2)C)C=C(C=C1)OCC(=C)C | C22H25N3O3
reactant | triethylorthoformate | 4.6 ml | C(C)OC(OCC)OCC | C7H16O3
reactant | acetic acid | 0.6 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-cyclopropyl-4-methyl-3-[6-[(2-methylprop-2-en-1-yl)oxy]-4-oxoquinazolin-3(4H)-yl]benzamide | 2.5 g | C1(CC1)NC(C1=CC(=C(C=C1)C)N1C=NC2=CC=C(C=C2C1=O)OCC(=C)C)=O | C23H23N3O3
